US05332750
A mixture of 400 mg of 6-butyl-3-cyanomethyl-1-(2'-methoxycarbonylbiphenyl-4-ylmethyl)-1,2-dihydro-2-oxopyridine and 2.2 ml of 1N aqueous KOH solution is boiled for 3 hours, cooled and acidified with hydrochloric acid. 6-Butyl-3-carbamoylmethyl-1-(2'-carboxybiphenyl-4-ylmethyl)-1,2-dihydro-2-oxopyridine is obtained after conventional working-up.

reactant | 6-butyl-3-cyanomethyl-1-(2'-methoxycarbonylbiphenyl-4-ylmethyl)-1,2-dihydro-2-oxopyridine | 400 mg | C(CCC)C1=CC=C(C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC)=O)CC#N | C26H26N2O3
reactant | KOH | 1N, 2.2 ml | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
product | 6-Butyl-3-carbamoylmethyl-1-(2'-carboxybiphenyl-4-ylmethyl)-1,2-dihydro-2-oxopyridine | C(CCC)C1=CC=C(C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)O)=O)CC(N)=O | C25H26N2O4
